US07491731B2
3-anilino-2-{3-methoxy-4-[(4-methoxybenzyl)oxy]benzyl}prop-2-enenitrile
To a homogeneous solution of 2-{3-methoxy-4-[(4-methoxybenzyl)oxy]benzyl}-3-morpholin-4-ylprop-2-enenitrile (14.5 g, 36.7 mmol) in isopropanol (050 mL) was added aniline hydrochloride (4.9 g, 37.5 mmol), and the mixture was stirred at reflux for 20 minutes, combined with 20 mL of water and cooled in an ice bath for 30 minutes. The resulting precipitate was filtered off, washed with water and air dried to give 13.7 g of crude product. This material was recrystalized from methanol/ethanol to afford pure product as a crystalline tan solid (10.5 g, 26.2 mmol). 1H NMR (300 MHz, d6-DMSO): δ 9.03 (d, J=12.8 Hz, 1H), 7.59 (d, J=12.8 Hz, 1H), 7.30 (d, J=8.6 Hz, 2H), 7.20 (d, J=7.4 Hz, 2H), 7.16 (m,2H), 6.93 (d, J=8.2 Hz, 1H), 6.88 (d, J=8.4, 1H), 6.86 (m, 1H), 6.83 (s, 1H), 4.90 (s, 2H), 3.69 (s, 3H), 3.68 (s, 3H), 3.50 (s, 2H), 3.28 (s, 2H). MS (ES-, m/z)=399 (M−H).

reactant | 2-{3-methoxy-4-[(4-methoxybenzyl)oxy]benzyl}-3-morpholin-4-ylprop-2-enenitrile | 36.7 mmol, 14.5 g | COC=1C=C(CC(C#N)=CN2CCOCC2)C=CC1OCC1=CC=C(C=C1)OC | C23H26N2O4
reactant | aniline hydrochloride | 37.5 mmol, 4.9 g | Cl.NC1=CC=CC=C1
reactant | water | 20 mL | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-anilino-2-{3-methoxy-4-[(4-methoxybenzyl)oxy]benzyl}prop-2-enenitrile | 26.2 mmol, 10.5 g | N(C1=CC=CC=C1)C=C(C#N)CC1=CC(=C(C=C1)OCC1=CC=C(C=C1)OC)OC | C25H24N2O3
